* 280V to 5V async buck, 150W, 50kHz
* D=5/280=0.0179, t_on=357n for T=20u
Vin in 0 280
M1 in gate sw 0 NMOS W=1 L=1
D1 0 sw DIODE
L1 sw out 68u
C1 out 0 470u
Rload out 0 0.167
Vgate gate 0 PULSE(0 12 0 1n 1n 357n 20u)
.model NMOS NMOS(Vto=1 Kp=2 Lambda=0)
.model DIODE D
.tran 1n 5m
.end
